US05830920
15 g of 4-aminomethyl-benzylamine were dissolved in 600 ml of methylene chloride and treated within 2.5 hours with a solution of 8.0 g of di-tert.-butyl dicarbonate in 80 ml of methylene chloride. Thereupon, the separated precipitate was filtered off and discarded and the mother liquor was evaporated. The thus-obtained residue was chromatographed on silica gel with hexane/ethyl acetate/methanol; there thus being obtained tert.-butyl (4-aminomethyl-benzyl)-carbamate, MS: m/z 179 ([M-tert.-butyl]+).

reactant | 4-aminomethyl-benzylamine | 15 g | NCC1=CC=C(CN)C=C1 | C8H12N2
reactant | di-tert.-butyl dicarbonate | 8.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | tert.-butyl (4-aminomethyl-benzyl)-carbamate | NCC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C13H20N2O2
